US04515799
4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[(1-methyl-2-imidazolyl)methoxymethyl]-1,4-dihydropyridine
Ethyl 4-(1-methyl-2-imidazolylmethoxy)acetoacetate (crude, 12 g) and ammonium acetate (4 g) in ethanol (40 ml) were heated gently under reflux for 20 minutes. Then methyl 2-(2-chlorobenzylidene)acetoacetate (13 g) was added and heating under reflux was continued for 4 hours. The cooled reaction mixture was evaporated to dryness and the residue dissolved in toluene (150 ml) and washed with 10% sodium hydroxide solution to remove acetic acid. The toluene solution was extracted with 2N hydrochloric acid (150 ml and 50 ml), the combined acid extracts washed with fresh toluene (50 ml) and the pH of the aqueous solution was adjusted to 3-4 with aqueous sodium carbonate. The aqueous solution was extracted with ethyl acetate (2×200 ml). These extracts were dried (Na2CO3) and the solution was filtered and evaporated to dryness. The residue, in a little toluene, was chromatographed on silica (t.l.c. grade, 17 g), eluting with petrol plus 30% v/v methylene chloride initially, changing gradually to 100% methylene chloride. Appropriate fractions were combined, evaporated, and the residue crystallised from diethyl ether plus a little petrol. Recrystallisation from ethyl acetate and petrol (1:1) gave the title compound (1 g), m.p. 137°-8° C.

reactant | Ethyl 4-(1-methyl-2-imidazolylmethoxy)acetoacetate | 12 g | CN1C(=NC=C1)COCC(CC(=O)OCC)=O | C11H16N2O4
reactant | ammonium acetate | 4 g | C(C)(=O)[O-].[NH4+]
reactant | methyl 2-(2-chlorobenzylidene)acetoacetate | 13 g | ClC1=C(C=C(C(=O)OC)C(=O)C)C=CC=C1 | C12H11ClO3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[(1-methyl-2-imidazolyl)methoxymethyl]-1,4-dihydropyridine | 1 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC=1N(C=CN1)C)C(=O)OCC | C23H26ClN3O5
